US04839379
1-(4-Aminophenyl)-3-neopentyl-3-azabicyclo[3.1.0]hexane-2,4-dione
Following the procedure of Example 3, a solution of 0.85 g of 3-n-pentyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione in 30 ml of ethanol is hydrogenated in the presence of 0.1 g of 5% palladium on carbon and worked up, affording the title compound which melts at 140°-143° C. after recrystallisation from ether/petroleum ether.

reactant | 3-n-pentyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 0.85 g | C(CCCC)N1C(C2(CC2C1=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H18N2O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 1-(4-Aminophenyl)-3-neopentyl-3-azabicyclo[3.1.0]hexane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C2C1)=O)CC(C)(C)C)=O | C16H20N2O2
